US09226923B2
To a solution of 4-(benzyloxy)cyclohexanecarbonitrile (1.26 g, 5.85 mmol, 1.0 equiv) in THF (dry, 30 mL) was added a solution of LDA (3.95 mL, 2.0 M Heptane/THF/toluene, 1.35 equiv) dropwise at −78° C. under N2. The resulting yellow solution was stirred at −78° C. for 2 hrs. Ethyl chloroformate (2.79 mL, 29.26 mmol, 5.0 equiv) was then added by syringe dropwise. The solution was stirred at −78° C. and allowed to warm to room temperature slowly and stirred overnight. The reaction was quenched by addition of H2O (20 mL), HCl (1.0 N, 20 mL). It was then extracted with EtOAc (3×40 mL). The combined organic solution was washed with brine (50 mL), dried over anhydrous Na2SO4 and then concentrated to give pale yellow residue. Ether (40 mL) was added and stirred for 5 min, filtered to remove the white solid. The ethereal solution was concentrated to give the yellow oil which was purified by CombiFlash (25 g silica gel column, EtOAc/Hexane: 0-20%) to afford 565 mg (yield 33%) of ethyl 4-(benzyloxy)-1-cyanocyclohexanecarboxylate as a pale yellow oil.

reactant | 4-(benzyloxy)cyclohexanecarbonitrile | 5.85 mmol, 1.26 g, 1.0 equiv | C(C1=CC=CC=C1)OC1CCC(CC1)C#N | C14H17NO
reactant | LDA | 2.0 M, 3.95 mL, 1.35 equiv | [Li+].CC(C)[N-]C(C)C
reactant | Ethyl chloroformate | 29.26 mmol, 2.79 mL, 5.0 equiv | ClC(=O)OCC | C3H5ClO2
reactant | Ether | 40 mL | CCOCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | ethyl 4-(benzyloxy)-1-cyanocyclohexanecarboxylate | 565 mg, yield 33% | C(C1=CC=CC=C1)OC1CCC(CC1)(C(=O)OCC)C#N | C17H21NO3
